US07781591B2
1-Benzofuran-5-carbaldehyde was treated with piperidine and sodium triacetoxyborohydride under the standard reductive amination protocol to provide 1-(5-benzofuranylmethyl)piperidine.

reactant | 1-Benzofuran-5-carbaldehyde | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-(5-benzofuranylmethyl)piperidine | O1C=CC2=C1C=CC(=C2)CN2CCCCC2 | C14H17NO
